datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCCCC[Si:11](CCCCCC)(CCCCCC)[H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>CCCCCC[Si+:11](CCCCCC)CCCCCC.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]1C2=C(C=CC=C2)[N+:12](C)=[C:11]1C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:82][C:71]([C-:10](F)[C:61](=[O:62])[O:92]CC)=[O:72].COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>CC[O:82][C:71]([C:10](F)([CH:20]([C:21](C[N+]1=CC=C(OC)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH2:20][C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])=[CH:62]1 10=20;20,21=21"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:11](=[N:10][C:61](C)=[O:62])[O-:12]>>CC[O:33][C:22](=[CH:21][CH2:20][N:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12,13=11,12"
C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N:10]2[CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20
"CCCC[O:12][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[O+:12]=[CH:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH:20]1CCCC[C:22]([O-:23])=[CH:21]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH2:10][C+:11]2CCCC2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CC(C)[O:33][C:22](=[N:21][N:20]([CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](N)[CH:64]=[CH:63]2)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:11](C)(C)[H:10].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[Si+:11](C)C.N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1CCC[N+:12]2=[C:11]1[S:62]CCC2)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
